US03994940
In the manner given in Example 1B, 2'-chloro-5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone in tetrahydrofuran is treated with phthalimide, triphenylphosphine and diethyl azodicarboxylate to give 2'-chloro-5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol- 4-yl]benzophenone.

reactant | 2'-chloro-5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)F)N1C(=NN=C1CO)CCN(C)C)=O | C20H20ClFN4O2
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2'-chloro-5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol- 4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)F)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CCN(C)C)=O | C28H23ClFN5O3
